US07968556B2
SYNTHESIS OF 2-(2-HYDROXYETHYLAMINO)-9-(2-METHOXYPHENYL)-8-OXO-8,9-DIHYDRO-7H-PURINE-6-CARBOXAMIDE
Ethyl 5-amino-2-(2-hydroxyethylamino)-6-(2-methoxyphenylamino)pyrimidine-4-carboxylate. Ethyl 2-(2-hydroxyethylamino)-6-(2-methoxyphenylamino)-5-nitropyrimidine-4-carboxylate r. (0.250 g, 0.663 mmol) was dissolved in ethanol (20 mL) and 10% palladium on carbon (0.050 g) were added to the flask and flushed with fresh hydrogen gas and allowed to stir at room temperature. After 16 h, the reaction was filtered through celite and the filtrate condensed under reduced pressure. The crude oil was purified using Biotage chromatography (5% methanol in ethyl acetate) to afford the title compound (0.200 g, 87%). MS (ESI) m/z 348.1 [M+1]+.

reactant | Ethyl 5-amino-2-(2-hydroxyethylamino)-6-(2-methoxyphenylamino)pyrimidine-4-carboxylate | NC=1C(=NC(=NC1NC1=C(C=CC=C1)OC)NCCO)C(=O)OCC | C16H21N5O4
reactant | Ethyl 2-(2-hydroxyethylamino)-6-(2-methoxyphenylamino)-5-nitropyrimidine-4-carboxylate | OCCNC1=NC(=C(C(=N1)C(=O)OCC)[N+](=O)[O-])NC1=C(C=CC=C1)OC | C16H19N5O6
reactant | ethanol | 20 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.050 g | [Pd] | Pd
product | 2-(2-HYDROXYETHYLAMINO)-9-(2-METHOXYPHENYL)-8-OXO-8,9-DIHYDRO-7H-PURINE-6-CARBOXAMIDE | 0.200 g, 87% | OCCNC1=NC(=C2NC(N(C2=N1)C1=C(C=CC=C1)OC)=O)C(=O)N | C15H16N6O4
